US04891372
7-Methanesulphonamido-3-[2-(4-methanesulphonamido-3-methylphenoxy)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine
Methanesulphonyl chloride (0.18 ml) was added dropwise to a solution of 7-amino-3-[2-(4-amino-3-methylphenoxy)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine (0.36 g) in pyridine (30 ml) cooled to 0°, and the mixture was then stirred at room temperature for 72 hours. The solvent was evaporated in vacuo and the residue was taken up in methylene chloride and washed three times with saturated aqueous sodium bicarbonate and three times with brine. The organic layer was dried (Na2SO4), filtered and evaporated in vacuo to give an oil which was triturated with methylene chloride to give a solid. Recrystallisation of the solid from ethanol/ethyl acetate gave the title compound, yield 0.28 g, m.p. 173°-174°.

reactant | Methanesulphonyl chloride | 0.18 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-amino-3-[2-(4-amino-3-methylphenoxy)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.36 g | NC1=CC2=C(CCN(CC2)CCOC2=CC(=C(C=C2)N)C)C=C1 | C19H25N3O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 7-Methanesulphonamido-3-[2-(4-methanesulphonamido-3-methylphenoxy)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine | CS(=O)(=O)NC1=CC2=C(CCN(CC2)CCOC2=CC(=C(C=C2)NS(=O)(=O)C)C)C=C1 | C21H29N3O5S2
